US06329370B1
Trifluoro-methanesulfonic acid 6-methoxy-1-oxo-1,2-dihydro-phthalazin-5-yl ester
A suspension of 5-hydroxy-6-methoxy-2H-phthalazin-1-one (4.9 g, 25.5 mmoles), prepared as described in example 58, in CH2Cl2 (100 ml) and pyridine (10.27 ml, 127.5 mmoles) under N2 was dropwise added, at −5÷0° C., with triflic anhydride (4.72 ml, 28.05 mmoles). After 30 minutes at −5° C., further triflic anhydride (0.94 ml) was added and after 30 minutes the mixture was diluted with CH2Cl2 (500 ml), washed with 5% citric acid (200 ml) and water, anhydrified over Na2SO4 and evaporated to small volume. The crystallised product was filtered and washed with CH2Cl2 to give 4.14 g of the title compound. The mother liquors were brought to dryness and flash chromatographed (eluent: petrolatum/ethyl acetate 1:1). The resultant solid was taken up in petrolatum and filtered to give 1.9 g of the title compound which joined to the previous gave a total of 6.04 g (yield: 73%).

reactant | 5-hydroxy-6-methoxy-2H-phthalazin-1-one | 25.5 mmoles, 4.9 g | OC1=C2C=NNC(C2=CC=C1OC)=O | C9H8N2O3
reactant | pyridine | 127.5 mmoles, 10.27 ml | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 28.05 mmoles, 4.72 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 0.94 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 6-methoxy-1-oxo-1,2-dihydro-phthalazin-5-yl ester | 4.14 g, yield: 73% | COC=1C(=C2C=NNC(C2=CC1)=O)OS(=O)(=O)C(F)(F)F | C10H7F3N2O5S
